US05574036
Preparation of 4-[3-(1-adamantyl)-4-methoxyethoxymethoxy-phenylethynyl]benzamide
500 μl (9.1 mmol) of an aqueous ammonia solution (32%) and 20 ml of THF were introduced into a round-bottomed flask. A solution of 1.1 g (2.3 mmol) of 4-[3-(1-adamantyl)-4-methoxyethoxymethoxyphenylethynyl]benzoyl chloride dissolved in 30 ml of THF was added dropwise and stirring was carried out at room temperature for three hours. The reaction mixture was poured into water and extracted with ethyl acetate and the organic phase was separated by settling, dried over magnesium sulfate and evaporated.

reactant | ammonia | 9.1 mmol, 500 μl | N | H3N
reactant | 4-[3-(1-adamantyl)-4-methoxyethoxymethoxyphenylethynyl]benzoyl chloride | 2.3 mmol, 1.1 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOCCOC)C#CC2=CC=C(C(=O)Cl)C=C2 | C29H31ClO4
reactant | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[3-(1-adamantyl)-4-methoxyethoxymethoxy-phenylethynyl]benzamide | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOCCOC)C#CC2=CC=C(C(=O)N)C=C2 | C29H33NO4
